US06369088B2
5-Methoxy-3-(4-(4-oxopent-2-en-2-ylamino)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one
The latter compound was obtained by reacting 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one with equimolar amounts of acetylacetone in glacial acetic acid at 80° C. and was isolated by precipitation by adding water and filtration.

reactant | 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)N)C | C10H11N3O3
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Methoxy-3-(4-(4-oxopent-2-en-2-ylamino)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)NC(C)=CC(C)=O)C | C15H17N3O4
